US04018824
A mixture of 4.8 parts of 1-(tert.-butyl)-3-azetidinol, 6.1 parts of 2,3-xylenol and 1.4 parts of trifluoroacetic acid was heated at 130° C. for 12 hours. The reaction mixture was cooled and dissolved in 100 parts of ether, and the solution was washed three times with 50 parts of 2N-sodium hydroxide aqueous solution and extracted three times with 2N-hydrochloric acid aqueous solution. The extract was washed twice with 50 parts of ether and made alkaline by addition of 2N-sodium hydroxide solution. The extraction was conducted three times with 50 parts of ether, and the extract was condensed and distilled under reduced pressure to yield 3.2 parts of 1-(2',3'-dimethylphenyloxy)-3-(tert.-butylamino)-2-propanol having a melting point of 57° C. and a boiling point of 134°-136° C. under 0.7 mm Hg.

reactant | 1-(tert.-butyl)-3-azetidinol | C(C)(C)(C)N1CC(C1)O | C7H15NO
reactant | 2,3-xylenol | C1(=C(C(=CC=C1)C)C)O | C8H10O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
product | 1-(2',3'-dimethylphenyloxy)-3-(tert.-butylamino)-2-propanol | CC1=C(C=CC=C1C)OCC(CNC(C)(C)C)O | C15H25NO2
